US04153607
11 parts of 2-pyrrolidino-4-amino-5-thiocarbamoyl-thiazole in 70 parts of sulfuric acid are oxidized with 0.5 part of bromine by the method described in Example 1(b). 10 parts of 3-amino-5-pyrrolidino-thiazolo-(4,5-c)-isothiazole (91% of theory) of melting point 270°-273° C. are obtained.

reactant | 2-pyrrolidino-4-amino-5-thiocarbamoyl-thiazole | N1(CCCC1)C=1SC(=C(N1)N)C(N)=S | C8H12N4S2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | bromine | BrBr | Br2
product | 3-amino-5-pyrrolidino-thiazolo-(4,5-c)-isothiazole | 91% | NC1=C2C(=NS1)N=C(S2)N2CCCC2 | C8H10N4S2
